US07863291B2
To (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride (0.298 g, 1.300 mmol) in N,N-dimethylformamide (15 mL) was added Cs2CO3 (1.059 g, 3.25 mmol) and 4-(4-chlorophenyl)-6-isothiocyanatopyrimidine (0.322 g, 1.300 mmol). The suspension was stirred at room temperature for 30 minutes. N,N′-Diisopropylcarbodiimide (0.608 mL, 3.90 mmol) was then added and the mixture was stirred at room temperature for 18 hours. The mixture was concentrated and purified by silica gel chromatography (5-25% 9:1 methanol:ammonium hydroxide-ethyl acetate) to afford (R)—N-(6-(pyridin-4-yl)pyrimidin-4-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (0.104 g, 0.276 mmol, 21% yield) as a yellow solid. 1H NMR (400 MHz, CDCl3) δ ppm 9.54 (1 H, br. s.), 8.83 (1 H, d), 7.89-8.04 (2 H, m), 7.41-7.54 (2 H, m), 7.33 (1 H, br. s.), 4.02 (1 H, d), 3.71 (1 H, d), 3.42 (1 H, d), 2.73-3.15 (5 H, m), 2.10-2.31 (2 H, m), 1.46-1.89 (3 H, m). LCMS R.T.=1.92; [M]+=370.35.

reactant | (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride | 1.300 mmol, 0.298 g | Cl.Cl.NC[C@@]1(CN2CCC1CC2)O
reactant | Cs2CO3 | 3.25 mmol, 1.059 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-(4-chlorophenyl)-6-isothiocyanatopyrimidine | 1.300 mmol, 0.322 g | ClC1=CC=C(C=C1)C1=NC=NC(=C1)N=C=S | C11H6ClN3S
reactant | N,N′-Diisopropylcarbodiimide | 3.90 mmol, 0.608 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | (R)—N-(6-(pyridin-4-yl)pyrimidin-4-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 0.276 mmol, 0.104 g, 21% yield | N1=CC=C(C=C1)C1=CC(=NC=N1)NC=1O[C@]2(CN3CCC2CC3)CN1 | C18H20N6O
